US09260408B2
[A] N-(5-Bromo-pyridin-3-ylmethyl)-propionamide
To a solution of propionamide (146 mg, 2.0 mmol) in DMF (10 mL) was added NaH (61 mg, 2.4 mmol) at 0° C. and reaction mixture was stirred for 10 min before the addition of 3-bromo-5-chloromethyl-pyridine (intermediate A-12 [A], 412 mg, 2.0 mmol). The resulting reaction mixture was stirred at room temperature for 1 hour before water was added. Then, the reaction mixture was extracted with EtOAc and combined organic layers were dried by anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was then purified by flash chromatography to give title compound (400 mg, 82%) as a solid.

reactant | propionamide | 2.0 mmol, 146 mg | C(CC)(=O)N | C3H7NO
reactant | NaH | 2.4 mmol, 61 mg | [H-].[Na+]
reactant | 3-bromo-5-chloromethyl-pyridine | BrC=1C=NC=C(C1)CCl | C6H5BrClN
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(5-Bromo-pyridin-3-ylmethyl)-propionamide | 400 mg, 82% | BrC=1C=C(C=NC1)CNC(CC)=O | C9H11BrN2O
